US06429315B1
Five grams of 3-chloro-2-(2-aminobutyl)thiophene is dissolved in 10 ml of methylene chloride in a 3-neck round bottomed flask blanketed with an inert atmosphere at 0° C. Pyridine (2.2 ml) is added in one portion followed by 3.37 ml of benzenesulfonyl chloride. The latter reagent is added at such a rate as to allow the methylene chloride solution to warm to 15° C. After warming to ambient temperature, the mixture is stirred for 4 hours and diluted with 100 ml of diethyl ether. The solution is poured into a separatory funnel and washed with water, dilute 1N HCl, saturated aqueous sodium bicarbonate and brine. The organic phase is dried over magnesium sulfate, filtered and concentrated in vacuo to provide (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-methylbenzenesulfonamide (6.7 g) as an orange oil. MS: m/z (E1, 70EV) 330 (20%). 1H NMR (200 MHz; CDCl3): δ 0.82 (3H, t, CH3); 1.6 (2H, m, CH2), 2.85 (2H, d, CH2), 3.45 (1H, m, CH), 6.8 (1H, d, CH), 7.1 (1H, d, C H), 7.4-8.2(5H, m, Ph).

reactant | 3-chloro-2-(2-aminobutyl)thiophene | Five grams | ClC1=C(SC=C1)CC(CC)N | C8H12ClNS
reactant | Pyridine | 2.2 ml | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 3.37 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-methylbenzenesulfonamide | 6.7 g | ClC1=C(SC=C1)C[C@@H](CC)NS(=O)(=O)C1=CC=C(C=C1)C | C15H18ClNO2S2
